US08278473B2
A suspension of 2.5 g (12.8 mmol) of (E)-2-methyl-3-(phenylthio)-2-propenoic acid and 3.5 g (25.7 mmol) of thionyl chloride in 25 ml of toluene was refluxed for 1 hour and then concentrated under vacuum. The residue was dissolved in 25 ml of ethyl acetate and cooled in ice bath. To the solution was added dropwise 2.9 g (32 mmol) of aniline and stirred at room temperature for 30 minutes. The reaction mixture was washed sequentially with 1N HCl solution, a saturated NaHCO3 solution, and a saturated NaCl solution. The organic layer was dried over anhydrous MgSO4 and concentrated to obtain 3.0 g of (E)-2-Methyl-N-phenyl-3-(phenylthio)-2-propenamide.

reactant | (E)-2-methyl-3-(phenylthio)-2-propenoic acid | 12.8 mmol, 2.5 g | C/C(/C(=O)O)=C\SC1=CC=CC=C1 | C10H10O2S
reactant | thionyl chloride | 25.7 mmol, 3.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | aniline | 32 mmol, 2.9 g | NC1=CC=CC=C1 | C6H7N
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-2-Methyl-N-phenyl-3-(phenylthio)-2-propenamide | 3.0 g | C/C(/C(=O)NC1=CC=CC=C1)=C\SC1=CC=CC=C1 | C16H15NOS
